US07135600B2
i) 4-(3-Iodophenyl)butyl methanesulfonate
4-(3-Iodophenyl)butan-1-ol (1.7 g) was stirred with diisopropylamine (1.74 ml) and methanesulfonyl chloride (0.66 ml) in dichloromethane (50 ml) at 21° for 2 h. The solution was washed successively with sodium bicarbonate solution, water, water acidified with a few drops of 2M HCl and water, each time back extracting with dichloromethane. The combined organic layers were dried (MgSO4) and evaporated to give the title compound (2.23 g), tlc Rf=0.28 (1:3 ethyl acetate in cyclohexane)

reactant | 4-(3-Iodophenyl)butan-1-ol | 1.7 g | IC=1C=C(C=CC1)CCCCO | C10H13IO
reactant | diisopropylamine | 1.74 ml | C(C)(C)NC(C)C | C6H15N
reactant | methanesulfonyl chloride | 0.66 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(3-Iodophenyl)butyl methanesulfonate | 2.23 g | CS(=O)(=O)OCCCCC1=CC(=CC=C1)I | C11H15IO3S
